US08071592B2
6-{[({(3S,4S)-1-[2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-hydroxy-3-pyrrolidinyl}methyl)amino]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one Hydrochloride
1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-fluoro-1,5-naphthyridin-2(1H)-one (108 mg; 0.353 mmol) and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde (for a synthesis see WO2003087098, Example 31(e)) (69 mg; 0.388 mmol) were combined in anhydrous DCM (5 ml) and anhydrous MeOH (1 ml) with a spatula of solid sodium carbonate. The reaction mixture was stirred under nitrogen for 18 h then sodium triacetoxyborohydride (235 mg; 1.06 mmol) was added and stirred for 1 h. The reaction mixture was concentraed and purified to obtain the free base of the title compound as a pale yellow oil (80 mg; 48%) after column chromatography (90:10:1: DCM:MeOH:NH4OH).

reactant | 1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-fluoro-1,5-naphthyridin-2(1H)-one | 0.353 mmol, 108 mg | NC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=NC=C(C=C12)F)=O | C15H19FN4O2
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde | O=C1NC2=C(OC1)C=CC(=N2)C=O | C8H6N2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 1.06 mmol, 235 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 ml | CO | CH4O
product | 6-{[({(3S,4S)-1-[2-(7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-hydroxy-3-pyrrolidinyl}methyl)amino]methyl}-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one Hydrochloride | 80 mg, 48% | Cl.FC1=CN=C2C=CC(N(C2=C1)CCN1C[C@@H]([C@@H](C1)O)CNCC=1C=CC=2OCC(NC2N1)=O)=O | InChI=1S/C23H25FN6O4.ClH/c24-15-7-18-17(26-9-15)2-4-22(33)30(18)6-5-29-11-14(19(31)12-29)8-25-10-16-1-3-20-23(27-16)28-21(32)13-34-20;/h1-4,7,9,14,19,25,31H,5-6,8,10-13H2,(H,27,28,32);1H/t14-,19+;/m0./s1
